US06605620B1
Synthesis of 1-(tert-Butoxycarbonyl)4-[N-(3-methoxyphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]piperidine
4-(m-Anisidino)-1-(tert-butoxycarbonyl)piperidine (613 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (586 mg) was treated in the same manner as described in Preparation Example 9 to give light yellow amorphous of the title compound.

reactant | 4-(m-Anisidino)-1-(tert-butoxycarbonyl)piperidine | 613 mg | COC1=CC(=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 586 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 1-(tert-Butoxycarbonyl)4-[N-(3-methoxyphenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC(=CC=C1)OC | C33H42N2O6
